US07109148B2
First, 1.5 ml of a boron trifluoride diethyl ether complex was added dropwise to a mixture of 1.1 g of 3-amino-2-{1-(methoxycarbonyl)ethoxy}pyridine, 1 ml of 1,2-dimethoxyethane, and 1 ml of dichloroethane at −10° C. After stirring at the same temperature for 10 minutes, a solution of 0.8 ml of t-butyl nitrite in 1 ml of 1,2-dimethoxyethane was added dropwise to the reaction mixture at −5° C. or lower. After stirring at the same temperature for 30 minutes, n-pentane was poured into the mixture. The lower one of the two layers separated was dissolved in acetic anhydride, and the solution was stirred at 70° C. for 1 hour. After the solvent was distilled out, the residue was subjected to silica gel chromatography to give 0.34 g of 3-acetoxy-2-{1-(methoxycarbonyl)ethoxy}pyridine.

reactant | 3-amino-2-{1-(methoxycarbonyl)ethoxy}pyridine | 1.1 g | NC=1C(=NC=CC1)OC(C)C(=O)OC | C9H12N2O3
reactant | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
reactant | t-butyl nitrite | 0.8 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | n-pentane | CCCCC | C5H12
reactant | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
reactant | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
product | 3-acetoxy-2-{1-(methoxycarbonyl)ethoxy}pyridine | 0.34 g | C(C)(=O)OC=1C(=NC=CC1)OC(C)C(=O)OC | C11H13NO5
